US06599901B1
[4-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-ylcarbamoyl)-2-oxo-2H-pyridin-1-yl]-acetic Acid Ethyl Ester
From 2-methoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with sodium iodide and ethyl bromoacetate in DMF. ES-MS m/e (%): 495 (M+Na+, 25), 473 (M+H+, 100).

reactant | 2-methoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | COC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C19H20N4O4S
reactant | sodium iodide | [I-].[Na+]
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | [4-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-ylcarbamoyl)-2-oxo-2H-pyridin-1-yl]-acetic Acid Ethyl Ester | C(C)OC(CN1C(C=C(C=C1)C(NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)=O)=O)=O | C22H24N4O6S
